US08334293B2
Add methenamine (1.10 equiv; 231.55 mmoles; 32.46 g) to a solution of 4-fluoro-3-(trifluoromethyl)phenacyl bromide (60.00 g; 1.00 equiv; 210.50 mmoles) in ethyl acetate (450 mL; 4.60 moles). Stir the mixture at RT overnight. Remove the solvent in vacuo and triturate the solid in methyl tert-butyl ether (MTBE). Filter and dry under reduced pressure. Add ethanol (450 mL; 7.73 moles), followed by hydrogen chloride (150 mL; 8.30 equiv; 1.75 moles) and stir the mixture at RT overnight. Remove the solvent in vacuo and dry the solid in vacuo at 50° C. for a week to obtain 2-Amino-1-(4-fluoro-3-trifluoromethyl-phenyl)-ethanone hydrochloride (54.23 g; 100% yield) as a white solid.

reactant | methenamine | 231.55 mmoles, 32.46 g, 1.10 equiv | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 4-fluoro-3-(trifluoromethyl)phenacyl bromide | 210.50 mmoles, 60.00 g, 1.00 equiv | FC1=C(C=C(C(CBr)=O)C=C1)C(F)(F)F | C9H5BrF4O
reactant | ethyl acetate | 4.60 moles, 450 mL | C(C)(=O)OCC | C4H8O2
reactant | ethanol | 7.73 moles, 450 mL | C(C)O | C2H6O
reactant | hydrogen chloride | 1.75 moles, 150 mL, 8.30 equiv | Cl | ClH
product | 2-Amino-1-(4-fluoro-3-trifluoromethyl-phenyl)-ethanone hydrochloride | 54.23 g, 100% yield | Cl.NCC(=O)C1=CC(=C(C=C1)F)C(F)(F)F | InChI=1S/C9H7F4NO.ClH/c10-7-2-1-5(8(15)4-14)3-6(7)9(11,12)13;/h1-3H,4,14H2;1H
